US07037925B2
4-(4-Carboxy-2-methylanilino)-6,7-dimethoxy-3-quinolinecarboxamide
A mixture of 4-chloro-6,7-dimethoxy-3-quinolinecarboxamide (0.046 g, 0.17 mmol), 3-amino-2-methylbenzoic acid (0.035 g, 0.23 mmol) and acetic acid (40 μl) in DMSO (0.8 ml) was stirred at 100° C. for 5 h. After cooling the reaction mixture was washed several times with diethyl ether. The oily residue was dissolved in water and made alkaline with 1 M NaOH and then weakly acidified with acetic acid. The mixture was left at 5° C. over night and the resulting precipitate was collected by filtration, washed with water and dried to give the title compound (35 mg, 50%).

reactant | 4-chloro-6,7-dimethoxy-3-quinolinecarboxamide | 0.17 mmol, 0.046 g | ClC1=C(C=NC2=CC(=C(C=C12)OC)OC)C(=O)N | C12H11ClN2O3
reactant | 3-amino-2-methylbenzoic acid | 0.23 mmol, 0.035 g | NC=1C(=C(C(=O)O)C=CC1)C | C8H9NO2
reactant | acetic acid | 40 μl | C(C)(=O)O | C2H4O2
solvent | DMSO | 0.8 ml | CS(=O)C | C2H6OS
product | 4-(4-Carboxy-2-methylanilino)-6,7-dimethoxy-3-quinolinecarboxamide | 35 mg, 50% | C(=O)(O)C1=CC(=C(NC2=C(C=NC3=CC(=C(C=C23)OC)OC)C(=O)N)C=C1)C | C20H19N3O5
